US04294769
A mixture of 174 g of 91.2 percent pure 1,4-diamino-anthraquinone-2-sulphonic acid (as the Na salt), 1,200 ccs of N-methyl-formamide, 63.7 g of sodium cyanide, 62.0 g of nitrobenzene and 41 g of sodium acetate is heated to 80°-85° C., whilst stirring, until, according to the TLC, the starting material has reacted without trace, that is to say for about 8 hours. The reaction mixture is worked up as described in Example 1. After drying, 133 g of a dark blue, crystalline product which, according to analysis, contains 85.5% of 1,4-diamino-2,3-dicyano-anthraquinone and no 1,4-diamino-2-cyanoanthraquinone are obtained. This corresponds to a yield of 78.9% of the pure product.

reactant | 1,4-diamino-anthraquinone-2-sulphonic acid | 174 g | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)S(=O)(=O)O | C14H10N2O5S
reactant | N-methyl-formamide | CNC=O | C2H5NO
reactant | sodium cyanide | 63.7 g | [C-]#N.[Na+]
reactant | nitrobenzene | 62.0 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sodium acetate | 41 g | C(C)(=O)[O-].[Na+]
product | 1,4-diamino-2-cyanoanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)C#N | C15H9N3O2
